US04946862
3.7 g of 1-(3,4,5-trimethoxybenzyl)-1-(2-thienyl)propyl isocyanide are dissolved in 40 ml of methanol, and 5 ml of conc. hydrochloric acid are added to the solution. The mixture is stirred at 50°-60° C. for 2 hours. After the reaction, the mixture is evaporated to remove solvent and the residue (i.e., crude 1-(3,4,5-trimethoxybenzyl)-1-(2-thienyl)propylamine hydrochloride) is dissolved in a mixture of 30 ml of methanol and 2.5 g of 35% formalin. 1.84 g of sodium cyanoborohydride are added to the solution and the mixture is stirred at room temperature for 3 hours. After the reaction, the mixture is evaporated to remove solvent and 10% hydrochloric acid is added to the residue. The mixture is stirred for 15 minutes. After the reaction, the mixture is alkalized with potassium carbonate and extracted with ethyl acetate. The extract is washed with an aqueous saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=2:1) to give 1.8 g of 1-(3,4,5-trimethoxybenzyl)-1-(2-thienyl)-N,N-dimethylpropylamine as a colorless oil. yield; 46.2%

reactant | 1-(3,4,5-trimethoxybenzyl)-1-(2-thienyl)propyl isocyanide | 3.7 g | COC=1C=C(CC(CC)(C=2SC=CC2)[N+]#[C-])C=C(C1OC)OC | C18H21NO3S
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 40 ml | CO | CH4O
product | 1-(3,4,5-trimethoxybenzyl)-1-(2-thienyl)-N,N-dimethylpropylamine | 1.8 g, yield; 46.2% | COC=1C=C(CC(CC)(C=2SC=CC2)N(C)C)C=C(C1OC)OC | C19H27NO3S
